US05290933
2-(2-Propoxyphenyl)pyrimidin-4(3H)-one
5-Carboxy-2-(2-propoxyphenyl)pyrimidin-4(3H)-one (2.03 g, U.S. Pat. No. 4,031,093) in quinoline (10 ml) was heated under reflux under nitrogen for two hours. Ether was added to the cooled reaction mixture which was then extracted with aqueous sodium hydroxide. The basic extract was washed with ether and then acidified with concentrated hydrochloric acid to pH 7. The aqueous mixture was extracted with chloroform and the chloroform extract was washed with aqueous hydrochloric acid, dried and evaporated under reduced pressure to afford a yellow solid. This solid was dissolved in ethanol and the ethanolic solution Was treated with charcoal, filtered and reduced in volume. From this precipitated a yellow solid impurity which was removed by filtration. A small quantity of the crude title compound (0.1 g) precipitated from the filtrate, however this together with another sample of crude title compound (0.54 g) similarly prepared was combined with the filtrate and eluted from a silica column with chloroform. Combined fractions containing product were evaporated under reduced pressure to afford a solid, 270 mg, which was recrystallised from ether to afford the title compound, 170 mg, m.p. 112°-113° C.

reactant | 5-Carboxy-2-(2-propoxyphenyl)pyrimidin-4(3H)-one | C(=O)(O)C=1C(NC(=NC1)C1=C(C=CC=C1)OCCC)=O | C14H14N2O4
reactant | Ether | CCOCC | C4H10O
reactant | charcoal | C | CH4
solvent | quinoline | 10 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-Propoxyphenyl)pyrimidin-4(3H)-one | C(CC)OC1=C(C=CC=C1)C1=NC=CC(N1)=O | C13H14N2O2
